US07053107B2
2-[3-Pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid methyl ester
A mixture of 3-Pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamine (560 mg, 1.54 mmol), 2-bromomethylbenzoate (647.5 μL, 4.61 mmol), biphenyl-2-yl-dicyclohexyl-phosphane (107.8 mg, 0.308 mmol), Pd2(dba)3 (70.5 mg, 0.0768 mmol), K3PO4 (816 mg, 3.844 mmol), and dimethoxyethane (1.7 ml), were vacuum flushed with nitrogen, then heated in an oil bath at 70 degrees C. for 24 h. The black mixture was diluted with methylene chloride, and filtered, concentrated, and chromatographed (20% to 40% ethylacetate/hexanes). Yield of yellow/orange oil was 260 mg, 35% for three steps.

reactant | 3-Pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamine | 1.54 mmol, 560 mg | N1=C(C=CC=C1)C#CC1=NN(C2=CC(=CC=C12)N)COCC[Si](C)(C)C | C20H24N4OSi
reactant | 2-bromomethylbenzoate | 4.61 mmol, 647.5 μL | BrCC1=C(C(=O)[O-])C=CC=C1
reactant | biphenyl-2-yl-dicyclohexyl-phosphane | 0.308 mmol, 107.8 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | K3PO4 | 3.844 mmol, 816 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.0768 mmol, 70.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dimethoxyethane | 1.7 ml | C(OC)COC | C4H10O2
product | 2-[3-Pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C#CC1=NC=CC=C1)=O | C28H30N4O3Si
